Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
aspirin
 
Attending: ___.
 
Chief Complaint:
"I was dizzy and I thought I needed iron"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with CML on Gleevac who
presented to his oncology appointment complaining of generalized
weakness, confusion (difficulty answering questions asked), and
staring episodes and was referred to the ED where he was found 
to
be anemic (Hgb ~8 from 10 about 3 months ago) in the setting of
chronic rectal bleeding. 

Prior to admission, he says he had been feeling dizzy and
fatigued for a couple of days. He has chronic iron deficiency
anemia requiring intermittent iron infusions and it is not
uncommon for him to feel this way when he needs iron. He was in
his normal state of health 2 days ago. He received iron during
his oncology visit and felt much better afterward. He has 
chronic
rectal bleeding ever since he was diagnosed with CML. He had a
colonoscopy in ___ for work up of this which showed
hemorrhoids, so his rectal bleeding is most likely hemorrhoidal
bleeding. He typically has rectal bleeding once or twice a week.
Within the few days prior to admission, he had the same amount 
of
bleeding as always, but it was unusual that he had rectal
bleeding three days in a row. 

Currently, he is not feeling dizzy or lightheaded. He feels 
tired
only because he was up all night in the ED. He feels back to his
baseline. He has had no further rectal bleeding since he
presented to the ED. He denies fevers/chills, chest pain,
shortness of breath, palpitations. He has a normal appetite. No
nausea, vomiting, abdominal pain, diarrhea, or constipation. No
dysuria or hematuria. No hemoptysis or hematemesis. He has been
walking around his room and the floor without issues. He is
frustrated about lack of communication to him in the ED. He says
no one told him why he needed to stay overnight or why he was
admitted to the hospital. He feels his rectal bleeding is at
baseline and he is not concerned about it. He is not sure that 
he
would want any kind of intervention to correct it at this point.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

ED course:
VS: Tmax 98, HR ___, BP ___, RR ___, SpO2
97-99% on RA
Labs: Hgb 8.6 -> 7.8 -> 7.5 -> 8
Imaging: CT head without acute process; CXR clear
Consultants: Neuro, GI
Interventions: 1L NS
 
Past Medical History:
- ___ cell trait
- CML, diagnosed following evaluation for right shoulder pain.
Initial WBC with 120,000 with <5% blasts in the periphery and
marrow.
- ___ esophagus
 
Social History:
___
Family History:
HCV - father
DM type ___ - mother
___ cell trait - brother
 
Physical ___:
VITALS: T 99.2, HR 67, BP 109/65, RR 20, SpO2 100% on RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, no gait abnormality
PSYCH: frustrated affect
 
Pertinent Results:
___ 04:10PM BLOOD WBC-5.4 RBC-2.45* Hgb-8.6* Hct-23.5* 
MCV-96 MCH-35.1* MCHC-36.6 RDW-15.1 RDWSD-52.5* Plt ___
___ 11:00PM BLOOD WBC-5.3 RBC-2.22* Hgb-7.8* Hct-21.0* 
MCV-95 MCH-35.1* MCHC-37.1* RDW-14.7 RDWSD-50.1* Plt ___
___ 02:10AM BLOOD WBC-4.5 RBC-2.14* Hgb-7.5* Hct-20.3* 
MCV-95 MCH-35.0* MCHC-36.9 RDW-14.7 RDWSD-50.7* Plt ___
___ 07:39AM BLOOD WBC-4.9 RBC-2.29* Hgb-8.0* Hct-22.1* 
MCV-97 MCH-34.9* MCHC-36.2 RDW-14.9 RDWSD-51.7* Plt ___
___ 03:00PM BLOOD WBC-3.9* RBC-2.27* Hgb-7.9* Hct-21.4* 
MCV-94 MCH-34.8* MCHC-36.9 RDW-14.9 RDWSD-50.3* Plt ___
___ 04:10PM BLOOD Ret Aut-1.5 Abs Ret-0.04
___ 04:10PM BLOOD UreaN-11 Creat-1.3* Na-145 K-4.8
___ 04:10PM BLOOD ALT-25 AST-33 LD(LDH)-261* AlkPhos-60 
TotBili-0.7
___ 04:10PM BLOOD Albumin-4.4 Calcium-8.9 Phos-3.5 Mg-2.0
___ 04:10PM BLOOD VitB12-518 ___ Ferritn-32
___ 04:10PM BLOOD TSH-0.39
___ 05:25PM BLOOD Lactate-1.4

MICRO:
BCx: pending

Respiratory Viral Antigen Screen (Final ___: 
Negative for Respiratory Viral Antigen. 

IMAGING: 
CXR PA/Lat: IMPRESSION:  
No acute cardiopulmonary process. 

CT head: 
IMPRESSION:  
No acute intracranial process.  Of note, MRI is more sensitive
for evaluation of mass lesions. 

RECENT ENDOSCOPIC STUDIES:  
EGD (___):
Esophagus: The GE junction was irregular. Cold forceps biopsies
were performed for histology at the gastro-esophageal junction.  

Stomach: Normal stomach. 
Duodenum: Normal duodenum. 

Colonoscopy (___):
Normal colonoscopy to cecum and terminal ileum; random colon
biospies

PATHOLOGY (___):
1 A. Gastroesophageal junction: Squamous epithelium,
unremarkable; gastric type mucosa with chronic inflammation; no
definite intestinal metaplasia present; multiple levels taken.
2 A. Duodenum second portion: Duodenal mucosa with very focal
microcystic changes, otherwise unremarkable; multiple levels
taken..
3 A. Random colon:Colonic mucosa, unremarkable.
 
Brief Hospital Course:
SUMMARY/ASSESSMENT: Mr. ___ is a ___ male with CML on
Gleevac who presented to his oncology appointment complaining of
generalized weakness, confusion (difficulty answering questions
asked), and staring episodes and was referred to the ED where he
had a negative neuro workup and was found to be anemic (Hgb ~8
from 10 about 3 months ago) in the setting of chronic rectal
bleeding. 

ACUTE/ACTIVE PROBLEMS:
# Acute on chronic normocytic anemia
# Chronic rectal bleeding
He was seen by GI in the ED and recommended anoscopy to evaluate
for bleeding hemorrhoids and consider consultation to colorectal
surgery for banding (likely as an outpatient). Because of this
recent normal colonscopy, there was no role for repeat 
endoscopy.
The trend of his Hgb was 8.6 -> 7.8 -> 7.5 -> 8 -> 7.9. He was
hemodynamically stable, asymptomatic, and his rectal bleeding 
had
ceased. His hemoglobin was 10 in ___ but it fluctuates from
___. I discussed with colorectal surgery who offered 
outpatient
follow up for consideration of banding in the future, but no
inpatient management was necessary. In discussion with the
patient, he is not sure that he would want a banding procedure 
as
his rectal bleeding is at baseline, but he would discuss further
with them in clinic. A follow up appointment was made in ___
clinic. A follow up appointment was made with his PCP next week
as well for Hgb check/follow up of anemia. He will also follow 
up
in ___ clinic in about 3 weeks. 
TRANSITIONAL ISSUE:
[ ] Please check repeat CBC at PCP appointment next week

# Confusion
# Staring episodes
He was evaluated by neurology in the ED for the generalized
weakness and a 30 second staring episode without alteration of
consciousness. CT head was negative for any acute process.
Neurologic exam was unremarkable. They felt that his symptoms 
were due to transiently slowed cognition ___ acute on chronic
anemia as well as sleep deprivation related to his work 
schedule.
After the iron transfusion, his symptoms completely resolved and
he felt he was back to his baseline. Neurology recommended no
further neurologic diagnostic testing and no further neuro 
follow
up. 

CHRONIC/STABLE PROBLEMS:
# CML - he will continue his Gleevac when he returns home; he 
did
not bring it to the hospital with him.

Mr. ___ is clinically stable for discharge today. The total 
time spent today on discharge planning, counseling and 
coordination of care was greater than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. IMatinib Mesylate 800 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  IMatinib Mesylate 800 mg PO DAILY  
2.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rectal bleeding (at baseline)
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the hospital for a drop in your blood 
counts that appeared to be transient and concern for rectal 
bleeding. The Neurology team saw you in the emergency department 
for the confusion and difficulty answering questions and they 
did not find any neurologic explanation for your symptoms after 
an extensive work up. Gastroenterology and Colorectal surgery 
were consulted for the rectal bleeding. Because it has been your 
baseline bleeding, and because your hemoglobin was not trending 
down, they recommended outpatient follow up if you are 
interested in learning more about surgical options to treat the 
rectal bleeding. They did not feel that anything emergent or 
inpatient needed to be done. You should follow up in your 
primary care doctor's office next week to have blood counts 
checked and follow up with your heme/onc team on ___ (as 
below). 

Take care,
Your ___ Care Team
 
Followup Instructions:
___